US06930185B2
2,6-naphthalenedicarboxylic acid dimethyl ester (26.0 g, 106 mmol) was dissolved in N,N-dimethylformamide (500 ml), and a 1N aqueous sodium hydroxide solution (106 ml) was added dropwise thereto at 100° C. over 30 minutes. After stirred for 3 hours, the solvent was distilled off under reduced pressure, water was added to the residue and the insolubles were filtered off. Concentrated hydrochloric acid (9 ml) was added to the filtrate, the precipitated crude product was filtered, washed with water, and recrystallized from hot methanol to obtain 6-(methoxycarbonyl)-2-naphthalenecarboxylic acid (14.6 g) as a white powder.

reactant | 2,6-naphthalenedicarboxylic acid dimethyl ester | 106 mmol, 26.0 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)OC | C14H12O4
reactant | sodium hydroxide | 1N, 106 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 6-(methoxycarbonyl)-2-naphthalenecarboxylic acid | 14.6 g | COC(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C13H10O4
